US08536179B2
To a stirred solution of ethyl 2,4-dioxopentanoate (36.5 g, 231 mmol) and triethyl orthoformate (41 mL, 246 mmol) in ethanol (60 mL) was added ammonium chloride (3.7 g, 69 mmol). The suspension was stirred at RT overnight. LCMS showed that the reaction was mostly complete. (Hydrolyzes on LCMS to some degree?) The reaction was concentrated under vacuum. The remaining oil was taken up in Et2O (300 mL), filtered to remove insolubles, rinsed with Et2O, and concentrated under vacuum. The product was obtained by short path distillation under vacuum (bp 70 to 77° C. at 0.09 mmHg) to give the product ethyl 4-ethoxy-2-oxopent-3-enoate (36.5 g, 47.3 mmol, 79% yield) as a light yellow oil.

reactant | ethyl 2,4-dioxopentanoate | 231 mmol, 36.5 g | O=C(C(=O)OCC)CC(C)=O | C7H10O4
reactant | triethyl orthoformate | 246 mmol, 41 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | ammonium chloride | 69 mmol, 3.7 g | [Cl-].[NH4+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | ethyl 4-ethoxy-2-oxopent-3-enoate | 47.3 mmol, 36.5 g, 79% yield | C(C)OC(=CC(C(=O)OCC)=O)C | C9H14O4
